US04093631
Reaction of 7-(2,3-epoxypropoxy)-2,2-dimethyl-4-(2-naphthyl)chroman with methylamine, by an analogous method to that described in Example 2 gave 7-(2-hydroxy-3-methylaminopropoxy)-2,2-dimethyl-4-(2-naphthyl)chroman isolated as its hydrochloride salt m.p. 183°-188°.

reactant | 7-(2,3-epoxypropoxy)-2,2-dimethyl-4-(2-naphthyl)chroman | O1C(COC2=CC=C3C(CC(OC3=C2)(C)C)C2=CC3=CC=CC=C3C=C2)C1 | C24H24O3
reactant | methylamine | CN | CH5N
product | 7-(2-hydroxy-3-methylaminopropoxy)-2,2-dimethyl-4-(2-naphthyl)chroman | OC(COC1=CC=C2C(CC(OC2=C1)(C)C)C1=CC2=CC=CC=C2C=C1)CNC | C25H29NO3
